US07935707B2
A) 4-((S)-2-Hydroxymethyl-pyrrolidin-1-yl)-piperidine-1-carboxylic acid tert-butyl ester
A solution of 10.0 g (50.2 mmol) of 4-oxo-piperidine-1-carboxylic acid tert-butyl ester and 6.00 ml=6.15 g (60.2 mmol) of (S)-(−)-pyrrolidin-2-yl-methanol in 100.0 ml of EtOH was treated with 100.0 ml of 1,2-dichloroethane, followed by 7.53 ml (60.2 mmol) of borane-pyridine complex (8 molar). Then, 7.46 ml=7.84 g (130.5 mmol) of acetic acid was added to this solution. After stirring at RT for 16 hours, the reaction mixture was poured into crashed ice; then, the pH was adjusted to 9-10 with sodium carbonate solution and the mixture was extracted twice with EtOAc; the combined organic phases were washed with water, dried over MgSO4, filtered and evaporated. The residue was purified by flash column chromatography (CH2Cl2/MeOH 1:0 to 9:1) to give 10.4 g (73%) of the title compound as light yellow oil. MS: 285.1 (MH+).

reactant | 4-oxo-piperidine-1-carboxylic acid tert-butyl ester | 50.2 mmol, 10.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | (S)-(−)-pyrrolidin-2-yl-methanol | 60.2 mmol, 6.15 g | N1[C@@H](CCC1)CO | C5H11NO
reactant | acetic acid | 130.5 mmol, 7.84 g | C(C)(=O)O | C2H4O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | EtOH | 100.0 ml | CCO | C2H6O
solvent | 1,2-dichloroethane | 100.0 ml | ClCCCl | C2H4Cl2
product | 4-((S)-2-Hydroxymethyl-pyrrolidin-1-yl)-piperidine-1-carboxylic acid tert-butyl ester | 10.4 g, 73% | C(C)(C)(C)OC(=O)N1CCC(CC1)N1[C@@H](CCC1)CO | C15H28N2O3
